US08071625B2
To a solution of 2-(methylamino)ethanol (600 mg, 7.99 mmol) in THF (5.0 mL) was added 2-chlorobenzylisocyanate (0.75 mL, 6.66 mmol). The reaction was stirred at rt for 30 min. The mixture was concentrated, re-dissolved in MeOH, filtered, and purified on RP-HPLC using a mixture of acetonitrile and H2O to give 3-(2-chlorobenzyl)-1-(2-hydroxyethyl)-1-methylurea (950 mg, 49%). LRMS (M+H+) m/z 243.0.

reactant | 2-(methylamino)ethanol | 7.99 mmol, 600 mg | CNCCO | C3H9NO
reactant | 2-chlorobenzylisocyanate | 6.66 mmol, 0.75 mL | ClC1=C(CN=C=O)C=CC=C1 | C8H6ClNO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 3-(2-chlorobenzyl)-1-(2-hydroxyethyl)-1-methylurea | 950 mg, 49% | ClC1=C(CNC(N(C)CCO)=O)C=CC=C1 | C11H15ClN2O2
